US04760140
(6-R-trans)-3-[(Acetyloxy)methyl]-7-[(5-acetyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester
A mixture of 585 mg of (6R-trans)-3-[(acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, 127 mg of propionyl chloride, 188 mg of sodium iodide and 15 ml of acetontrile was stirred for 90 minutes, then 99 mg of pyridine was added. This mixture was stirred for 90 minutes, then dichloromethane was added and the mixture was refluxed for 20 minutes. The solution was washed with 10% hydrochloric acid, brine and aqueous sodium bicarbonate, dried and evaporated, giving 418 mg of the desired product.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-7-[[[[(dimethylamino)methylene]amino]thioxomethyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 585 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC(=S)N=CN(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N4O5S2
reactant | propionyl chloride | 127 mg | C(CC)(=O)Cl | C3H5ClO
reactant | sodium iodide | 188 mg | [I-].[Na+]
reactant | pyridine | 99 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (6-R-trans)-3-[(Acetyloxy)methyl]-7-[(5-acetyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 418 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC(=CN1)C(C)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25N3O6S2
